US07868188B2
N-{5-[5-(2-Hydroxyethylaminosulfonyl)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide
Using an analogous method to that described in Example 7, N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide was reacted with 5-bromo-N-(2-hydroxyethyl)pyridine-3-sulfonamide to give the title compound (Method A HPLC: retention time 4.0 minutes; 10 mg, 23%); 1H NMR Spectrum: (DMSOd6) 12.22 (1H, br s); 8.92 (1H, d); 8.86 (1H, d); 8.16 (1H, t); 7.96 (1H, br s); 4.73 (1H, t); 3.39 (2H, br q); 2.89 (2H, br t); 2.40 (3H, s); 2.17 (3H, s); Mass Spectrum: M+H+ 357.

reactant | N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide | IC1=C(N=C(S1)NC(C)=O)C | C6H7IN2OS
reactant | 5-bromo-N-(2-hydroxyethyl)pyridine-3-sulfonamide | BrC=1C=C(C=NC1)S(=O)(=O)NCCO | C7H9BrN2O3S
product | N-{5-[5-(2-Hydroxyethylaminosulfonyl)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | 10 mg, 23% | OCCNS(=O)(=O)C=1C=C(C=NC1)C1=C(N=C(S1)NC(C)=O)C | C13H16N4O4S2
